US05475106
Using a procedure similar to that described in Example 31, but starting with 3-(hydroxymethyl)aniline (1.1 g) and 2-[N-(3-methoxyphenyl)isocyanatoacetamido]-N-methyl-N-phenylacetamide (3.2 g), and after recrystallisation in ethyl acetate, 2-[2-{3-[3-(hydroxymethyl)phenyl]ureido}-N-(3-methoxyphenyl)acetamido]-N-methyl-N-phenylacetamide (2.6 g), m.p. 142° C., is obtained.

reactant | 3-(hydroxymethyl)aniline | 1.1 g | OCC=1C=C(N)C=CC1 | C7H9NO
reactant | 2-[N-(3-methoxyphenyl)isocyanatoacetamido]-N-methyl-N-phenylacetamide | 3.2 g | COC=1C=C(C=CC1)N(C(CN=C=O)=O)CC(=O)N(C1=CC=CC=C1)C | C19H19N3O4
product | 2-[2-{3-[3-(hydroxymethyl)phenyl]ureido}-N-(3-methoxyphenyl)acetamido]-N-methyl-N-phenylacetamide | 2.6 g | OCC=1C=C(C=CC1)NC(NCC(=O)N(C1=CC(=CC=C1)OC)CC(=O)N(C1=CC=CC=C1)C)=O | C26H28N4O5
